US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-3-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-pyridin-3-yl-methanone and 4-isopropoxy-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3): δ 1.19 (s, 3H), 1.20 (s, 3H), 4.35-4.38 (m, 1H), 6.63 (d, J=9.2 Hz, 2H), 7.24 (m, 2H), 7.35-7.38 (m, 1 H), 7.43 (d, J=2.4 Hz, 1H), 7.45-7.49 (m, 2H), 7.62 (d, J=8.8 Hz, 1H), 7.70-7.73 (m, 1H), 8.51 (bs, 1H), 8.68 (bs, 1H), MS: M/z=431.0 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-3-yl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC=CC1 | C12H9ClN2O
reactant | 4-isopropoxy-benzenesulfonyl chloride | C(C)(C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO3S
product | N-[4-Chloro-2-(pyridine-3-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C)C(=O)C=1C=NC=CC1 | C21H19ClN2O4S
